US08212045B2
To acetonitrile (50 mL) was added sodium isothiocyanate (0.1749 g, 2.158 mmol), pyridine (0.3740 ml, 4.624 mmol), followed by (R)-N-(methylsulfonyloxy)-1,4-dioxaspiro[4.5]decane-2-carbimidoyl chloride (0.5507 g, 1.850 mmol), and the resulting mixture was heated to 60° C. for 30 minutes. 5-(3-Methylpyridin-2-ylthio)-3-(2-methylpyridin-3-yloxy)pyridin-2-amine (0.500 g, 1.541 mmol) was added and the reaction was stirred overnight at 60° C. The reaction was concentrated in vacuo and the residue was partitioned between ethyl acetate and 1N NaOH. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine, dried (MgSO4) and concentrated. The residue was dried over silica gel (100% ethyl acetate). Concentration of the major UV active fraction with an Rf of 0.5 afforded (S)-N-(5-(3-methylpyridin-2-ylthio)-3-(2-methylpyridin-3-yloxy)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine (0.565 g, 1.030 mmol, 66.8% yield) as an off white powder/crystals.

reactant | sodium isothiocyanate | 2.158 mmol, 0.1749 g | [N-]=C=S.[Na+]
reactant | pyridine | 4.624 mmol, 0.3740 ml | N1=CC=CC=C1 | C5H5N
reactant | (R)-N-(methylsulfonyloxy)-1,4-dioxaspiro[4.5]decane-2-carbimidoyl chloride | 1.850 mmol, 0.5507 g | CS(=O)(=O)ON=C([C@@H]1OC2(OC1)CCCCC2)Cl | C10H16ClNO5S
reactant | 5-(3-Methylpyridin-2-ylthio)-3-(2-methylpyridin-3-yloxy)pyridin-2-amine | 1.541 mmol, 0.500 g | CC=1C(=NC=CC1)SC=1C=C(C(=NC1)N)OC=1C(=NC=CC1)C | C17H16N4OS
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | (S)-N-(5-(3-methylpyridin-2-ylthio)-3-(2-methylpyridin-3-yloxy)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine | 1.030 mmol, 0.565 g, 66.8% yield | CC=1C(=NC=CC1)SC=1C=C(C(=NC1)NC1=NC(=NS1)[C@@H]1OC2(OC1)CCCCC2)OC=2C(=NC=CC2)C | C27H28N6O3S2
